reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([O:4][H:17])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5](=[C:6]([H:16])[H:18])([H:14])[H:15],67.98801795869929
[C:1]([C@@:2]([C:3](=[C:4]([H:13])[H:14])[H:12])([C:7]([C:6](=[C:5]([H:15])[H:16])[H:18])([H:17])[H:19])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C@@:7]12[H:19])([H:8])([H:9])[H:10],80.1287179687127
[O:1]([C:2]([C:3]#[C:4][C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[C+:4][C:5]#[C-:6])[H:10])([H:8])[H:9])[H:7],105.640016439186
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1=[O:6])([H:7])([H:8])[H:9].[C:5]([H:13])([H:14])([H:15])[H:16],90.3511548857747
[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C@@:3]2([H:11])[O:4][C@:5]1([H:12])[O:6]2)([H:7])([H:8])[H:9],72.7902089706742
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[N:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:10])[H:14])([H:7])([H:8])[H:9].[C:4](=[O:5])=[N:6][H:15],80.7286231361756
[C:1]([C@@:2]([C:3]#[N:4])([C:7]([C:5](=[O:6])[H:13])([H:12])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],87.16999014375374
[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6]>>[H:7][H:8].[N:1](=[C:2]=[N:3][C:4](=[O:5])[H:9])[H:6],94.7735060645698
[C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[C:4](=[C:5]([H:14])[H:15])[C:7]1([H:16])[H:17])([O:6][H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],115.4839249399548
[C:1]([C@@:2]1([H:11])[C:6]([C:5]([C:4](=[C:3]([H:12])[H:13])[H:14])([H:15])[H:16])=[C:7]1[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],83.60035167507283
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]([O:6][H:16])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:4])[C:5]([O:6][H:13])([H:14])[H:15])([H:7])([H:8])[H:9].[C:3]([H:10])([H:11])([H:12])[H:16],72.0379683942112
[C+:1]([N:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])=[C:6]=[N-:7])[H:11])([H:8])[H:9].[H:10][H:12]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],17.563133377064396
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:3]([O:4][H:9])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],90.20649759775011
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9]>>[C:1]([C:2][C:4]([C:3]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9],69.030746875757
[C-:3](=[O+:4][C:5]([H:13])([H:14])[H:15])[H:12].[C:1]([C:2]([H:9])([H:10])[H:11])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([O:4][C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],20.324848994988912
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9]>>[C:1]([C:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:10])([H:11])[H:12])([H:7])([H:8])[H:9],68.98622745613321
[C:1](/[C:2](=[C:3](\[O:4][H:10])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],38.76073650169891
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7]>>[O:1](/[C:2](=[C:4](\[C:3]([O+:6]=[C-:5][H:12])([H:9])[H:10])[H:11])[H:8])[H:7],100.392815097089
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7]>>[H:7][H:10].[O:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:8])[H:9])[H:11],80.94518731551909
[n:1]1([H:6])[c:2]([H:7])[n:3][n:4][c:5]1[H:8]>>[N:1](=[C:5](/[C-:2]([N+:3]#[N:4])[H:7])[H:8])\[H:6],121.34178094807
[C+:1]([C:2]#[C:3][C:4](=[C-:5][H:9])[H:8])([H:6])[H:7]>>[C:1]([C:2]#[C:3][C:4]#[C:5][H:9])([H:6])([H:7])[H:8],65.95271141433521
[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:4]1=[N:5][C@:3]1([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],91.54024918489901
[O:1]([C@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]([C:5](=[O:6])[H:12])([H:13])[C:7]1([H:14])[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8],79.9388397021082
